US06096689
5-(4-Chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-2,4-dichlorobenzoyl chloride
20.5 g (160 mmol) of oxalyl chloride were added dropwise to a solution of 7.7 g (20 mmol) of 5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-2,4-dichlorobenzoic acid in 300 ml of toluene. After 6 hours stirring at reflux temperature, the reaction mixture was concentrated. Yield: quantitative.

reactant | oxalyl chloride | 160 mmol, 20.5 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-2,4-dichlorobenzoic acid | 20 mmol, 7.7 g | ClC=1C(=NN(C1OC(F)F)C)C=1C(=CC(=C(C(=O)O)C1)Cl)Cl | C12H7Cl3F2N2O3
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-Chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-2,4-dichlorobenzoyl chloride | Yield: quantitative | ClC=1C(=NN(C1OC(F)F)C)C=1C(=CC(=C(C(=O)Cl)C1)Cl)Cl | C12H6Cl4F2N2O2
